US05534529
N-[2-Ethyl-6-(1-hydroxypropyl)phenyl]-2-(9H-xanthen-9-yl)acetamide (Compound No. 1-1434)
9.6 mg (0.18 mmol) of sodium methoxide were added to 3 ml of a methanolic solution containing 37 mg (0.060 mmol) of N-(2-ethyl-6-{1-[2-(9H-xanthen-9-yl)acetoxy]propyl}phenyl)-2-(9H-xanthen-9-yl)acetamide (prepared as described in Preparation 55). The mixture was then stirred for 4 hours at 60° C. At the end of this time, the reaction solution was diluted with diethyl ether. Water was then added to the reaction mixture, and the title compound was distributed between the organic solvent and the water. The organic layer was then separated and washed with water 3 times. The solvent was removed by distillation under reduced pressure, and the resulting residue was subjected to column chromatography through 5 g of silica gel. Elution with mixtures of methylene chloride and ethyl acetate ranging from 10:1 to 5:1 by volume afforded 21 mg (yield 89%) of the title compound as crystals, melting at 167°-168° C. (after recrystallization from a mixture of diethyl ether and hexane).

reactant | sodium methoxide | 0.18 mmol, 9.6 mg | C[O-].[Na+]
reactant | N-(2-ethyl-6-{1-[2-(9H-xanthen-9-yl)acetoxy]propyl}phenyl)-2-(9H-xanthen-9-yl)acetamide | 0.060 mmol, 37 mg | C(C)C1=C(C(=CC=C1)C(CC)OC(CC1C2=CC=CC=C2OC=2C=CC=CC12)=O)NC(CC1C2=CC=CC=C2OC=2C=CC=CC12)=O | C41H37NO5
reactant | Water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-[2-Ethyl-6-(1-hydroxypropyl)phenyl]-2-(9H-xanthen-9-yl)acetamide | C(C)C1=C(C(=CC=C1)C(CC)O)NC(CC1C2=CC=CC=C2OC=2C=CC=CC12)=O | C26H27NO3
